US05728835
3-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylthiophenyl)benzamide
Using 3-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylthiophenyl)benzamide (196.7 mg, 0.40 mmol) and acetic anhydride (0.046 ml, 0.48 mmol), the procedure of Inventive Example 94 was repeated to obtain 172.2 mg (80.7%) of the title compound in a light brown amorphous form.

reactant | 3-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylthiophenyl)benzamide | 0.40 mmol, 196.7 mg | NC=1C=C(C(=O)N(C2=CC(=CC=C2)SC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC1 | C28H30FN3O2S
reactant | acetic anhydride | 0.48 mmol, 0.046 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methylthiophenyl)benzamide | 172.2 mg, 80.7% | C(C)(=O)NC=1C=C(C(=O)N(C2=CC(=CC=C2)SC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC1 | C30H32FN3O3S
